US07129225B2
4-benzyloxy-3-hydroxybenzylamine
This compound was prepared according to procedure used in preparation of 3,5-dibenzyloxybenzylamine, starting from 4-benzyloxy-3-hydroxybenzonitrile. Yield was 33%. MP 122–125° C.; 1H NMR (DMSO-d6, 400 MHz) δ8.9 (br, 1H), 7.44 (d, 2H, J=7.4 Hz), 7.35 (dd, 2H, J=7.0 and 7.7 Hz), 7.28 (dd, 1H, J=7.0 and 7.3), 6.85 (d, 1H, J=7.6 Hz), 6.77 (d, 1H, J=2.1 Hz), 6.61 (dd, 1H, J=7.4 and 2.2 Hz), 5.05 (s, 2H), 3.55 (s, 1H), 2.50 (br, 2H).

reactant | 3,5-dibenzyloxybenzylamine | C(C1=CC=CC=C1)OC=1C=C(CN)C=C(C1)OCC1=CC=CC=C1 | C21H21NO2
reactant | 4-benzyloxy-3-hydroxybenzonitrile | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)O | C14H11NO2
product | 4-benzyloxy-3-hydroxybenzylamine | Yield was 33% | C(C1=CC=CC=C1)OC1=C(C=C(CN)C=C1)O | C14H15NO2
